US05391541
Under a nitrogen atmosphere, a stirred suspension of 0.62 gram (0.01 5 mole) of 60% sodium hydride (in mineral oil) in 30 mL of N,N-dimethylformamide was cooled to below 7° C., and a solution of 2.8 grams (0.015 mole) of ethyl 3-amino-4,4,4-trifluoro-2-butenoate in 15 mL of N,N-dimethylformamide was added dropwise at a rate to maintain the reaction mixture below 7° C. Upon completion of addition, the reaction mixture was stirred for about 45 minutes, during which time the reaction mixture temperature was about 2°-4° C. After this time a solution of 3.2 grams of 2,3,5-trichlorophenylmethyl isocyanate in 10 mL of N,N-dimethylformamide was added dropwise at a rate to maintain the reaction mixture temperature at about 2°-4° C. Upon completion of addition, the reaction mixture was stirred for about 10 minutes at 2°-4° C. and then warmed to 70°-85° C., where it was stirred for 3 hours. After this time the reaction mixture was allowed to cool to ambient temperature, where it stirred for about 16 hours. The reaction mixture was then poured into water, and the mixture was extracted with ethyl acetate. The extract was then washed with one portion of water. The water layer and the wash were combined and acidified with concentrated hydrochloric acid. The resultant solid was collected by filtration, yielding, when dried, 0.5 gram of solid. To collect additional product, the ethyl acetate extract was again washed, this time with five 150 mL portions of water. The combined washes were acidified with concentrated hydrochloric acid. The resultant solid was collected by filtration. The solid was dissolved in ethyl acetate and washed with water. The organic layer was dried with sodium sulfate and filtered. The filtrate was concentrated under reduced pressure, yielding a solid residue. The solid was combined with the 0.5 gram of material collected above, yielding 2.7 grams of 3-(2,3,5-trichlorophenylmethyl)-6-trifluoromethyluracil, mp 199°-202° C. The NMR spectrum was consistent with the proposed structure.

reactant | sodium hydride | 5 mole, 0.62 gram | [H-].[Na+]
reactant | ethyl 3-amino-4,4,4-trifluoro-2-butenoate | 0.015 mole, 2.8 grams | NC(=CC(=O)OCC)C(F)(F)F | C6H8F3NO2
reactant | 2,3,5-trichlorophenylmethyl isocyanate | 3.2 grams | ClC1=C(C=C(C=C1Cl)Cl)CN=C=O | C8H4Cl3NO
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 3-(2,3,5-trichlorophenylmethyl)-6-trifluoromethyluracil | 2.7 grams | ClC1=C(C=C(C=C1Cl)Cl)CN1C(NC(=CC1=O)C(F)(F)F)=O | C12H6Cl3F3N2O2
